US05892040
With stirring and cooling a solution of 48.5 g (0.4 mol) of N-benzyl-N-methyl-amine was added dropwise to a solution of 39.2 g (0.4 mol) of propiolic acid ethyl ester in 200 ml of toluene in the course of 20 min. so as not to exceed a temperature of 30° C. The yellow, slightly opaque solution was evaporated at 50° C./30 torr until constant weight. 91.8 g of 3-(benzylmethyl-amino)acrylic acid ethyl ester were obtained as a yellow oil which was further used without purification.

reactant | N-benzyl-N-methyl-amine | 0.4 mol, 48.5 g | C(C1=CC=CC=C1)NC | C8H11N
reactant | propiolic acid ethyl ester | 0.4 mol, 39.2 g | C(C)OC(C#C)=O | C5H6O2
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(benzylmethyl-amino)acrylic acid ethyl ester | 91.8 g | C(C)OC(C=CNCCC1=CC=CC=C1)=O | C13H17NO2
